US07812028B2
d) 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2-pyridin-2-yl-ethyl)-nicotinamide
The title compound was synthesized in analogy to Example 5d, using 5-(4-chloro-phenyl)-6-(2-pyridin-2-yl-ethyl)-nicotinic acid and (1R,2R)-2-amino-cyclohexanol as starting materials, LC at 215 nm; Rt 3.10: 98%, m/z (ES+): 436.4 (M+H).

reactant | 5-(4-chloro-phenyl)-6-(2-pyridin-2-yl-ethyl)-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)CCC1=NC=CC=C1 | C19H15ClN2O2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2-pyridin-2-yl-ethyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)CCC1=NC=CC=C1 | C25H26ClN3O2
